* Z:\home\andre\Documents\1P2A-Faculdade\AC\Lab\1\Slice\Draft1.asc
R1 0 N001 22K
R2 N002 N001 22K
R3 0 N001 11K
R4 0 N003 22K
Vb0 N002 0 5V
Vb1 N003 0 5V
.op
.backanno
.end
